US07741315B2
Step 3: Ethyl 3-(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate
To a cold (5° C.) mixture of ethyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (199 g, 0.51 mol) and urea hydrogen peroxide (100 g, 1.06 mol) in dichloromethane (1.5 L), trifluoroacetic anhydride was added dropwise over a period of 45 minutes. The resultant homogeneous solution was stirred at 20° C. for 30 minutes and cooled back to 5° C. The reaction mixture was treated with aqueous potassium hydrogen phosphate (pH of aqueous extract increased to ˜8), followed by slow addition of freshly prepared aqueous sodium bisulfite solution with the temperature of the product mixture maintained below 25° C. The organic extract was separated and the aqueous fraction extracted with toluene (2×). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. Without further purification, a solution of this intermediate N-oxide (˜280 g) and acetic anhydride (239 mL, 2.5 mol) in toluene (2 L) was heated at 110° C. for 16 hours. The product mixture was concentrated under vacuum. The resultant oil was concentrated from toluene (300 mL, twice) and stored under vacuum overnight. The acetate product was used in the following step without further purification.

reactant | ethyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 0.51 mol, 199 g | ClC=1C=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)OC)=O)C=CC1F | C19H18ClFN2O4
reactant | urea hydrogen peroxide | 1.06 mol, 100 g | OO.NC(=O)N
reactant | potassium hydrogen phosphate | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | acetic anhydride | 2.5 mol, 239 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
solvent | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OCC | C21H20ClFN2O6
